US07982036B2
A solution of tert-butyl 3-(6-chloropyrimidin-4-ylamino)phenylcarbamate (200 mg, 0.6 mmol), 4-phenoxyaniline (346 mg, 1.8 mmol) and concentrated HCl (45 mg, 1.2 mmol) in n-butanol (8 mL) was subjected to microwave irradiation (160° C., 20 min). The reaction mixture was quenched with NaHCO3 solution (2 mL) and extracted with EtOAc (2×10 mL). The combined EtOAc extract was washed with water (5 mL), brine (5 mL), was dried over Na2SO4 and was concentrated under reduced pressure. The residue was further purified by column chromatography (SiO2, 60-120, Chloroform/methanol, 9/1) to give N4-(3-aminophenyl)-N6-(4-phenoxyphenyl)pyrimidine-4,6-diamine (87 mg, 37.8%) as a brown solid.

reactant | tert-butyl 3-(6-chloropyrimidin-4-ylamino)phenylcarbamate | 0.6 mmol, 200 mg | ClC1=CC(=NC=N1)NC=1C=C(C=CC1)NC(OC(C)(C)C)=O | C15H17ClN4O2
reactant | 4-phenoxyaniline | 1.8 mmol, 346 mg | O(C1=CC=CC=C1)C1=CC=C(N)C=C1 | C12H11NO
reactant | HCl | 1.2 mmol, 45 mg | Cl | ClH
solvent | n-butanol | 8 mL | C(CCC)O | C4H10O
product | N4-(3-aminophenyl)-N6-(4-phenoxyphenyl)pyrimidine-4,6-diamine | 87 mg, 37.8% | NC=1C=C(C=CC1)NC1=NC=NC(=C1)NC1=CC=C(C=C1)OC1=CC=CC=C1 | C22H19N5O
